US08017607B2
To a mixture of rac-4-({[(2S,3S,4S)-2-(3-Chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]amino}-methyl)-2-fluoro-benzoic acid methyl ester (53.0 mg, 0.0838 mmol) in THF (6 mL) was added a solution of LiOH.H2O (Aldrich, 26 mg, 0.615 mmol) in water (3 mL) and the reaction mixture was stirred at rt overnight. The reaction mixture was partly concentrated and quenched with 1 N HCl (pH 5), extracted with EtOAc, and washed with water, saturated NaCl. The organic phase was separated, and dried over Na2SO4. The mixture was then concentrated to give rac-4-({[(2S,3S,4S)-2-(3-Chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-methyl)-2-fluoro-benzoic acid (38.9 mg, 75%). HRMS (ES+) m/z Calcd C31H28Cl2F3N3O3+H (M+H): 618.1533; Found: 618.1532

reactant | rac-4-({[(2S,3S,4S)-2-(3-Chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]amino}-methyl)-2-fluoro-benzoic acid methyl ester | 0.0838 mmol, 53.0 mg | COC(C1=C(C=C(C=C1)CNC(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)F)=O | C32H30Cl2F3N3O3
reactant | LiOH.H2O | 0.615 mmol, 26 mg | O[Li].O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | rac-4-({[(2S,3S,4S)-2-(3-Chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-methyl)-2-fluoro-benzoic acid | 38.9 mg, 75% | ClC=1C(=C(C=CC1)[C@H]1N(C[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NCC1=CC(=C(C(=O)O)C=C1)F)F | C31H28Cl2F3N3O3
